US08044070B2
2) Production of 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-(piperidin-1-carbonyl)pyrimidine
Piperidine (0.02 ml, 0.20 mmol) was added to a dimethylformamide solution (1.0 ml) of 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-(phenoxycarbonyl)pyrimidine (40 mg, 0.100 mmol), and stirred at room temperature for 12 hours. Water was added to the reaction mixture and extracted with ethyl acetate. The organic layer was washed with saturated saline solution, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified through partitioning thin-layer chromatography (hexane:ethyl acetate=3:7) to obtain the entitled compound (38 mg, 97%).

reactant | Piperidine | 0.20 mmol, 0.02 ml | N1CCCCC1 | C5H11N
reactant | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
reactant | 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-(phenoxycarbonyl)pyrimidine | 0.100 mmol, 40 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C=N1)C(=O)OC1=CC=CC=C1 | C21H25N3O5
solvent | Water | O | H2O
product | 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-(piperidin-1-carbonyl)pyrimidine | 38 mg, 97% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C=N1)C(=O)N1CCCCC1 | C20H30N4O4
